US07674805B2
2.2. 2-amino-2-oxoethyl (2-[(4-cyanophenyl)-oxy]ethyl)carbamate
0.61 ml (1.35 mmol) of a 2.2M solution of diethyl azodicarboxylate in toluene is added dropwise to a solution of 0.13 g (0.88 mmol) of 3-(2-hydroxyethyl)-1,3-oxazolidine-2,4-dione, prepared in Step 2.1, 0.35 g (1.35 mmol) of triphenylphosphine and 0.10 g (0.89 mmol) of 4-hydroxybenzonitrile in 2 ml of benzene, cooled using an ice bath. The reaction mixture is subsequently stirred at ambient temperature for 16 hours. It is evaporated to dryness and the product is purified by chromatography on silica gel, eluting with a 99/1 then 98/2 mixture of dichloromethane and ethyl acetate. The product is taken up in 1.5 ml of a 7M solution of ammonia (10.5 mmol) in methanol. This solution is stirred for one hour. The precipitate is filtered off and washed with ethyl acetate, to give 0.035 g of white solid.

reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 3-(2-hydroxyethyl)-1,3-oxazolidine-2,4-dione | 0.88 mmol, 0.13 g | OCCN1C(OCC1=O)=O | C5H7NO4
reactant | triphenylphosphine | 1.35 mmol, 0.35 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-hydroxybenzonitrile | 0.89 mmol, 0.10 g | OC1=CC=C(C#N)C=C1 | C7H5NO
reactant | ammonia | 10.5 mmol | N | H3N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | benzene | 2 ml | C1=CC=CC=C1 | C6H6
solvent | methanol | CO | CH4O
product | 2-amino-2-oxoethyl (2-[(4-cyanophenyl)-oxy]ethyl)carbamate | 0.035 g | C(#N)C1=CC=C(C=C1)OCCNC(OCC(=O)N)=O | C12H13N3O4
